US06977263B2
To a stirred mixture of 4-(3-Aminomethyl-phenyl)-4-hydroxy-piperidine-1-carboxylic acid-tert-butyl ester (0.30 g, 0.99 mmol), methylene chloride (10 mL) and water (10 mL) was added potassium carbonate (0.28 g, 2.02 mmol) followed by benzylchloroformate (0.34 g, 2.02 mmol). The reaction stirred overnight at room temperature. The reaction was extracted with methylene chloride (3×30 mL). The organic extracts were combined, dried over sodium sulfate and evaporated to give a tan oil. Purification by flash chromatography 40% Ethyl acetate: Heptane yielded 4-[3-(Benzyloxycarbonylamino-methyl)-phenyl]-4-hydroxy-piperidine-1-carboxylic acid-tert-butyl ester (0.40 g). 1H NMR [(CDCl3: δ 7.45-7.18 (m, 9H), 5.15 (s, 2H), 5.08 (br.s., 1H, NH), 4.40 (d, 2H), 4.15-3.93 (m, 2H), 3.35-3.15 (m, 2H), 2.08-1.90 (m, 2H), 1.75-1.62 (m, 2H), 1.50 (s, 9H).

reactant | 4-(3-Aminomethyl-phenyl)-4-hydroxy-piperidine-1-carboxylic acid-tert-butyl ester | 0.99 mmol, 0.30 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC(=CC=C1)CN | C17H26N2O3
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
reactant | potassium carbonate | 2.02 mmol, 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylchloroformate | 2.02 mmol, 0.34 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | water | 10 mL | O | H2O
product | 4-[3-(Benzyloxycarbonylamino-methyl)-phenyl]-4-hydroxy-piperidine-1-carboxylic acid-tert-butyl ester | 0.40 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC(=CC=C1)CNC(=O)OCC1=CC=CC=C1 | C25H32N2O5
